US04818765
There is added to a solution of 2-trimethylsilyl-1,3-dithiane (16.2 g) in dry tetrahydrofuran (170 ml) at -65° a 1.9M solution of n-butyllithium in hexane (45 ml). The reaction mixture is progressively warmed to 0° in the course of 31/2 hours and cooled to -65°. A solution of 4-dimethylamino-benzophenone (19.2 g) in dry tetrahydrofuran (100 ml) is than slowly added. The reaction mixture is progressively warmed to room temperature overnight and poured into a mixture of water (1000ml) and dichloromethane (200 ml). After separation of the layers, the aqueous solution is extracted with dichloromethane (3×200 ml). The combined organic solutions was washed with water (100 ml) and dried over magnesium sulphate. The solvents are evaporated in vacuo and the residue is recrystallised from ethyl acetate. The product is dried in vacuo to constant weight to yield (4-dimethylaminophenyl)-(1,3-dithian-2-ylidene)-phenylmethane, m.p. 172°-174°.

reactant | 2-trimethylsilyl-1,3-dithiane | 16.2 g | C[Si](C1SCCCS1)(C)C | C7H16S2Si
reactant | n-butyllithium | C(CCC)[Li]
reactant | 4-dimethylamino-benzophenone | 19.2 g | CN(C1=CC=C(C(=O)C2=CC=CC=C2)C=C1)C | C15H15NO
reactant | water | 1000ml | O | H2O
solvent | tetrahydrofuran | 170 ml | O1CCCC1 | C4H8O
solvent | hexane | 45 ml | CCCCCC | C6H14
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
product | (4-dimethylaminophenyl)-(1,3-dithian-2-ylidene)-phenylmethane | CN(C1=CC=C(C=C1)C(C1=CC=CC=C1)=C1SCCCS1)C | C19H21NS2
